US07319101B2
a) 6-(Hydroxy-pyridin-4-yl-methyl)-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid
6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid (1 g, 2.52 mmol, 1 eq.), LiOMe (192 mg, 5.04 mmol, 2 eq.) and pyridine-4-carbaldehyde (0.48 mL, 5.03 mmol, 2 eq.) as the electrophile were reacted according to GP4, Method A. The crude product was purified using flash chromatography (silica gel, CH2Cl2/MeOH 92:8→80:20) to give the title compound as a yellow solid.

reactant | 6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | 2.52 mmol, 1 g, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O | C20H13BrO4
reactant | LiOMe | 5.04 mmol, 192 mg, 2 eq. | O([Li])C
reactant | pyridine-4-carbaldehyde | 5.03 mmol, 0.48 mL, 2 eq. | N1=CC=C(C=C1)C=O | C6H5NO
product | 6-(Hydroxy-pyridin-4-yl-methyl)-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | OC(C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O)C1=CC=NC=C1 | C26H19NO5
